US04638002
Preparation of triphenyl-(3-carboxy-4-nitro-benzyl)-phosphonium bromide
A mixture of 15 g (57.7 millimoles) of 3-bromomethyl-6-nitro-benzoic acid, 15.17 g (57.7 millimoles) of triphenyl phosphine and 70 ml anhydrous toluene is refluxed for 2 hours. The precipitated product is filtered off, washed with ether and dried. Thus 21.15 g of the title compound are obtained, yield 71%.

reactant | 3-bromomethyl-6-nitro-benzoic acid | 57.7 millimoles, 15 g | BrCC=1C=C(C(=O)O)C(=CC1)[N+](=O)[O-] | C8H6BrNO4
reactant | triphenyl phosphine | 57.7 millimoles, 15.17 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | triphenyl-(3-carboxy-4-nitro-benzyl)-phosphonium bromide | 21.15 g, yield 71% | [Br-].C1(=CC=CC=C1)[P+](CC1=CC(=C(C=C1)[N+](=O)[O-])C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H20NO4P.BrH/c28-26(29)24-18-20(16-17-25(24)27(30)31)19-32(21-10-4-1-5-11-21,22-12-6-2-7-13-22)23-14-8-3-9-15-23;/h1-18H,19H2;1H
